US05773388
Synthesis of 1-Chloro-1,1-difluoro-5,5-dimethyl-3-ethoxymethylene-2,4-hexanedione (Compound No. 204)
12.4 g of 1-chloro-1,1-difluoro-5,5-dimethyl-2,4-hexanedione and 12.4 g of ethyl orthoformate were added to 50 ml of acetic anhydride, and the mixture was refluxed under heating for 2 hours. After the solvent was distilled off under reduced pressure, the residue was subjected to vacuum distillation to obtain 6.8 g of the desired product. (b.p. 105°-107° C./2 mmHg)

reactant | 1-chloro-1,1-difluoro-5,5-dimethyl-2,4-hexanedione | 12.4 g | ClC(C(CC(C(C)(C)C)=O)=O)(F)F | C8H11ClF2O2
reactant | ethyl orthoformate | 12.4 g | C(OCC)([O-])[O-]
solvent | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-Chloro-1,1-difluoro-5,5-dimethyl-3-ethoxymethylene-2,4-hexanedione | 6.8 g | ClC(C(C(C(C(C)(C)C)=O)=COCC)=O)(F)F | C11H15ClF2O3
